US07544812B2
The 2-methyl-2-(4-{2-[1-(4-methyl-benzyl)-2-oxo-3-propyl-2,3-dihydro-1H-imidazol-4-yl]-ethoxy}-phenoxy)-propionic acid ethyl ester (0.036 g, 0.075 mmol) was combined with aqueous 5 N NaOH (0.15 mL) in EtOH (5 mL) and heated to reflux under N2 for 1 h. The reaction was cooled and the solvent removed in vacuo to give a residue that was acidified with aqueous 1 N HCl (1 mL). The mixture was extracted with Et2O and water, the organic layer dried (MgSO4), and the solvent removed in vacuo to afford 0.024 g (71%) 2-methyl-2-(4-{2-[1-(4-methyl-benzyl)-2-oxo-3-propyl-2,3-dihydro-1H-imidazol-4-yl]-ethoxy}-phenoxy)-propionic acid. HRMS (ES+) m/z exact mass calcd for C26H33N2O5 [M+0.1] 453.2389, found 453.2387. 1H NMR.

reactant | 2-methyl-2-(4-{2-[1-(4-methyl-benzyl)-2-oxo-3-propyl-2,3-dihydro-1H-imidazol-4-yl]-ethoxy}-phenoxy)-propionic acid ethyl ester | 0.075 mmol, 0.036 g | C(C)OC(C(C)(OC1=CC=C(C=C1)OCCC=1N(C(N(C1)CC1=CC=C(C=C1)C)=O)CCC)C)=O | C28H36N2O5
reactant | NaOH | 5 N, 0.15 mL | [OH-].[Na+]
reactant | HCl | 1 N, 1 mL | Cl | ClH
solvent | EtOH | 5 mL | CCO | C2H6O
product | 2-methyl-2-(4-{2-[1-(4-methyl-benzyl)-2-oxo-3-propyl-2,3-dihydro-1H-imidazol-4-yl]-ethoxy}-phenoxy)-propionic acid | 0.024 g, 71% | CC(C(=O)O)(C)OC1=CC=C(C=C1)OCCC=1N(C(N(C1)CC1=CC=C(C=C1)C)=O)CCC | C26H32N2O5
